US09024018B2
3-Methyl-4-oxo-N-(2-oxo-2-(thiophen-2-yl)ethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide
Using the general procedure, the title compound was synthesized from methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide and 2-amino-1-(thiophen-2-yl)ethanone hydrochloride, using a reaction time of 16 hours for the amidine formation. Yield 66%. δH (DMSO-d6): 9.76-9.73 (1H, m), 9.69 (1H, s), 9.49 (1H, bs), 9.22 (1H, s), 8.16 (1H, dd, J=4.9, 1.1), 8.12 (1H, dd, J=3.8, 1.1), 7.37 (1H, dd, J=4.9, 3.8), 5.17 (2H, d, J=6.3), 4.06 (3H, s).

reactant | methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide | I.CN1N=NC=2N(C1=O)C=NC2C(=N)SC
reactant | 2-amino-1-(thiophen-2-yl)ethanone hydrochloride | Cl.NCC(=O)C=1SC=CC1
product | 3-Methyl-4-oxo-N-(2-oxo-2-(thiophen-2-yl)ethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide | Yield 66% | I.CN1N=NC=2N(C1=O)C=NC2C(NCC(C=2SC=CC2)=O)=N | InChI=1S/C12H11N7O2S.HI/c1-18-12(21)19-6-15-9(11(19)16-17-18)10(13)14-5-7(20)8-3-2-4-22-8;/h2-4,6H,5H2,1H3,(H2,13,14);1H
